US04051183
Preparation of 1,2,3,4-Tetrahydro-1-naphthylurea
A mixture of 1-benzoyl-3-(1,2,3,4-tetrahydro-1- naphthyl)urea (2.0 g) and aqueous sodium hydroxide (1N; 20 ml) is stirred and heated at reflux for 2.75 hours. The mixture is then cooled in ice and the product is collected and washed with water to afford 1.15 g of the title compound, m.p. 204° to 207° C.

reactant | 1-benzoyl-3-(1,2,3,4-tetrahydro-1- naphthyl)urea | 2.0 g | C(C1=CC=CC=C1)(=O)NC(=O)NC1CCCC2=CC=CC=C12 | C18H18N2O2
solvent | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
product | 1,2,3,4-Tetrahydro-1-naphthylurea | 1.15 g | C1(CCCC2=CC=CC=C12)NC(=O)N | C11H14N2O
